US06180664B2
Pentaerythrityl trinitrate
158 g (0.5 mol) of pentaerythrityl tetranitrate (PETN) are dissolved in a boiling mixture of 300 ml of dioxane and 300 ml of ethanol, and different amounts of aqueous hydrazine hydrate solution (1.5-4 mol) are added in portions over 1 hour. The reaction mixture is then refluxed for a further 2.5 hours. The solvents are evaporated off at 15 mm Hg and the residue is extracted by shaking several times with 100 ml portions of water, as required, until the volume of the oil layer no longer decreases on extraction. The aqueous extracts (A) are collected and the residual oily layer is dissolved in twice its volume of ethanol. Any white precipitate of PETN which has separated out is filtered off after 24 hours; m.p.=132° C., nitrogen content: 17.35%; m.p.=141° C. (2×acetone); nitrogen content: conforms. Ethanol is evaporated off from the filtrate at 15 mm Hg. The viscous oily residue consists of crude pentaerythrityl trinitrate (PETriN); nitrogen content: conforms.

reactant | pentaerythrityl tetranitrate | 0.5 mol, 158 g | C(C(CO[N+](=O)[O-])(CO[N+](=O)[O-])CO[N+](=O)[O-])O[N+](=O)[O-] | C5H8N4O12
reactant | hydrazine hydrate | 1.5-4 mol | O.NN
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Pentaerythrityl trinitrate | C(C(CO[N+](=O)[O-])(CO[N+](=O)[O-])CO[N+](=O)[O-])O | C5H9N3O10
